US04861779
A. 3-oxo-1,4-diazabicyclo[3.2.2]nonane
Quinuclidone HCl (200 g, 1.24 moles) was dissolved in concentrated sulfuric acid (500 ml) and chilled to 0°-5° C. in a very large ice-water bath. NaN3 (200 g, 3.07 moles) was added in small portions over 2 hours. The resulting mixture was stirred at 0° C. for 4 hours. The reaction mixture was then slowly and carefully diluted with 1 liter of water and slowly quenched with a solution of sodium hydroxide (900 g, 22.5 moles) in 1.5 liters of water. After the quench, the pH of the reaction mixture was approximately 13.5. The resulting sodium sulfate was filtered and then washed with 2 liters of chloroform. The aqueous supernatant was extracted with three times 2 l of chloroform. The combined extracts were dried with magnesium sulfate and concentrated to give 94.9 g of a solid residue. This residue was chromatographed (2.0 kg SiO2 ; 9:1 chloroform:methanol) to give 13.59 g of the title compound as white crystals, m.p. 210°-211° C., yield 7.8%.

reactant | Quinuclidone HCl | 1.24 moles, 200 g | Cl.N12C(CC(CC1)CC2)=O
reactant | NaN3 | 3.07 moles, 200 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium hydroxide | 22.5 moles, 900 g | [OH-].[Na+]
solvent | sulfuric acid | 500 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 1 liter | O | H2O
solvent | water | 1.5 liters | O | H2O
product | 3-oxo-1,4-diazabicyclo[3.2.2]nonane | 94.9 g, yield 7.8% | O=C1CN2CCC(N1)CC2 | C7H12N2O
